US06156907
4-Cyano-1-(2,6-difluorobenzyl)-1H-1,2,3-triazole
A mixture of 2,6-difluorobenzyl azide (34.2 g), 2-chloroacrylonitrile (17.73 g) and water (125 ml) is stirred at about 80° C. for 24 hours. Excess 2-chloroacrylonitrile is distilled off by raising the external temperature to about 130° C. The semi-solid mixture is cooled to about 40° C. and the suspension is treated with cyclohexane (50 ml), brought to about 20° C. and stirred for about 2 hours. The product is isolated by filtration, washed with cyclohexane (75 ml) and then with water (50 ml). The moist product is mixed with water (100 ml), the suspension is filtered and the product is washed with water (50 ml) and dried in vacuo at about 60° C. Yield: 38.04 g=86%.

reactant | 2,6-difluorobenzyl azide | 34.2 g | FC1=C(CN=[N+]=[N-])C(=CC=C1)F | C7H5F2N3
reactant | 2-chloroacrylonitrile | 17.73 g | ClC(C#N)=C | C3H2ClN
solvent | water | 125 ml | O | H2O
product | 4-Cyano-1-(2,6-difluorobenzyl)-1H-1,2,3-triazole | C(#N)C=1N=NN(C1)CC1=C(C=CC=C1F)F | C10H6F2N4
